US04672062
10.0 g of 7,8-dimethyl-3-methylamino-2,3,4,5-tetrahydro-1benzoxepin-5-ol were dissolved in 50 ml of methanol saturated with hydrogen chloride, and the solution was heated at reflux for two hours with stirring. Subsequently, the solution was evaporated under vacuum; the residue was dissolved in a 25 percent aqueous ammonia solution, and the alkaline ammonia solution was worked up as described in Example 1. 7.9 g of 7,8-dimethyl-3-methylamino-2,3-dihydro-1-benzoxepine hydrochloride were obtained. Melting point: 216-218 degrees C.

reactant | 7,8-dimethyl-3-methylamino-2,3,4,5-tetrahydro-1benzoxepin-5-ol | 10.0 g | CC=1C(=CC2=C(C(CC(CO2)NC)O)C1)C | C13H19NO2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 7,8-dimethyl-3-methylamino-2,3-dihydro-1-benzoxepine hydrochloride | 7.9 g | Cl.CC=1C(=CC2=C(C=CC(CO2)NC)C1)C | InChI=1S/C13H17NO.ClH/c1-9-6-11-4-5-12(14-3)8-15-13(11)7-10(9)2;/h4-7,12,14H,8H2,1-3H3;1H
